US07345181B2
A mixture of 4-(3-{3-(tert-butyl-dimethyl-silanyloxy)-2-[3-(tert-butyl-dimethyl-silanyloxy)-4-methyl-oct-1-en-6-ynyl]-5-hydroxy-cyclopentyl}-2-methoxymethoxy-phenyl)-butyric acid methyl ester of 506 mg (0.72 mmol), triphenyl phosphine (350 mg, 1.34 mmol), CH3CN (6 ml), pyridine (112 mg, 1.42 mmol), and CCl4 (240 mg, 1.55 mmol) was stirred for 12 hours. The reaction solution was concentrated under reduced pressure, and then, subjected to column chromatography on a silica gel to obtain 4-(3-{3-(tert-butyl-dimethyl-silanyloxy)-2-[3-(tert-butyl-dimethyl-silanyloxy)-4-methyl-oct-1-en-6-ynyl]-5-chloro-cyclopentyl}-2-methoxymethoxy-phenyl)-butyric acid methyl ester (426 mg, yield: 82%).

reactant | 4-(3-{3-(tert-butyl-dimethyl-silanyloxy)-2-[3-(tert-butyl-dimethyl-silanyloxy)-4-methyl-oct-1-en-6-ynyl]-5-hydroxy-cyclopentyl}-2-methoxymethoxy-phenyl)-butyric acid methyl ester | COC(CCCC1=C(C(=CC=C1)C1C(C(CC1O)O[Si](C)(C)C(C)(C)C)C=CC(C(CC#CC)C)O[Si](C)(C)C(C)(C)C)OCOC)=O | C39H66O7Si2
reactant | triphenyl phosphine | 1.34 mmol, 350 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | pyridine | 1.42 mmol, 112 mg | N1=CC=CC=C1 | C5H5N
reactant | CCl4 | 1.55 mmol, 240 mg | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | CH3CN | 6 ml | CC#N | C2H3N
product | 4-(3-{3-(tert-butyl-dimethyl-silanyloxy)-2-[3-(tert-butyl-dimethyl-silanyloxy)-4-methyl-oct-1-en-6-ynyl]-5-chloro-cyclopentyl}-2-methoxymethoxy-phenyl)-butyric acid methyl ester | 426 mg, yield: 82% | COC(CCCC1=C(C(=CC=C1)C1C(C(CC1Cl)O[Si](C)(C)C(C)(C)C)C=CC(C(CC#CC)C)O[Si](C)(C)C(C)(C)C)OCOC)=O | C39H65ClO6Si2
